US06248738B1
Phosphorus oxychloride (POCl3) (9.65 mL, 103.5 mmol) was added to a stirred suspension of 4-chloro-7-chlorosulphonyl-1-(2H)-isoquinolone (22.1 g, 79.6 mmol) in MeCN (500 mL) at room temperature and the mixture was then heated at reflux for 15 h. On cooling, the MeCN solution was decanted from the insoluble sludge and evaporated in vacuo. The residue was extracted with hot EtOAc and evaporated to leave a solid which was stirred with Et2O (1.2 L) at room temperature overnight. The ethereal solution was decanted from the insoluble material and evaporated in vacuo to give 7-chlorosulphonyl-1,4-dichloroisoquinoline (20 g, 67 mmol) as a pale yellow solid.

reactant | Phosphorus oxychloride | 103.5 mmol, 9.65 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-chloro-7-chlorosulphonyl-1-(2H)-isoquinolone | 79.6 mmol, 22.1 g | ClC1=CNC(C2=CC(=CC=C12)S(=O)(=O)Cl)=O | C9H5Cl2NO3S
reactant | Et2O | 1.2 L | CCOCC | C4H10O
solvent | MeCN | 500 mL | CC#N | C2H3N
product | 7-chlorosulphonyl-1,4-dichloroisoquinoline | 67 mmol, 20 g | ClS(=O)(=O)C1=CC=C2C(=CN=C(C2=C1)Cl)Cl | C9H4Cl3NO2S
